US08420052B2
Compound (E)-6-(4-methoxystyryl)benzo[d]thiazol-2-amine (W201) was prepared using the general procedure for Suzuki coupling reaction between 6-bromobenzo[d]thiazol-2-amine (69 mg, 0.3 mmol) and (E)-4-methoxystyrylboronic acid (53 mg, 0.3 mmol), as a white solid (80 mg, 94%). 1H NMR (400 MHz, DMSO-d6) δ 7.80 (d, J=1.6 Hz, 1 H), 7.46 (s, 2 H), 7.45 (d, J=8.8 Hz, 2 H), 7.36 (dd, J=8.4, 1.6 Hz, 1 H), 7.24 (d, J=8.0 Hz, 1 H), 7.03 (d, J=2.0 Hz, 2 H), 6.89 (d, J=9.2 Hz, 1 H), 3.71 (s, 3 H); MS (ESI) m/z 283 (M+H+).

reactant | 6-bromobenzo[d]thiazol-2-amine | 0.3 mmol, 69 mg | BrC1=CC2=C(N=C(S2)N)C=C1 | C7H5BrN2S
reactant | (E)-4-methoxystyrylboronic acid | 0.3 mmol, 53 mg | COC1=CC=C(/C=C/B(O)O)C=C1 | C9H11BO3
product | (E)-6-(4-methoxystyryl)benzo[d]thiazol-2-amine | COC1=CC=C(/C=C/C2=CC3=C(N=C(S3)N)C=C2)C=C1 | C16H14N2OS
